US06727249B2
(1R*,2R*,5S*,6R*)-2-{[3,5-Bis(trifluoromethyl)phenyl]methoxy}-1-phenyl-6-(1H-tetrazol-1-yl)-8-azabicyclo[3.2.1]octane hydrochloride
1R*,2R*,5S*,6R*)-8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-1-phenyl-6-(1H-tetrazol-1-yl)-8-azabicyclo[3.2.1]octane. (Example 116; 154 mg, 0.26 mmol) was dissolved in methanol (30 ml) and 2N hydrochloric acid (0.5 ml) and 10% palladium hydroxide (40 mg, 10%) added. The mixture was hydrogenated at 35 psi for 1 hour. The reaction mixture was then filtered and concentrated in vacuo and the oil partitioned between saturated sodium hydrogen carbonate solution and dichloromethane. The organics were collected, dried (MgSO4) and concentrated in vacuo to give an orange foam which was purified by flash column chromatography [7.5% methanol in dichloromethane] then further isolated by thin layer chromatography [7.5% methanol in dichloromethane] to give a clear oil. The hydrochloride salt was made by adding 1 equivalent of hydrogen chloride in diethyl ether (1.0M) to a solution in diethyl ether and the title compound filtered and dried in vacuo at 60° C. (25 mg, 18%).

reactant | 8-Benzyl-2-{[3,5-bis(trifluoromethyl)phenyl]methoxy}-1-phenyl-6-(1H-tetrazol-1-yl)-8-azabicyclo[3.2.1]octane | C(C1=CC=CC=C1)N1C2(C(CCC1C(C2)N2N=NN=C2)OCC2=CC(=CC(=C2)C(F)(F)F)C(F)(F)F)C2=CC=CC=C2 | C30H27F6N5O
reactant | hydrochloric acid | 2N, 0.5 ml | Cl | ClH
reactant | hydrogen chloride | 1 equivalent | Cl | ClH
solvent | methanol | 30 ml | CO | CH4O
solvent | diethyl ether | 1.0M | C(C)OCC | C4H10O
catalyst | palladium hydroxide | 40 mg | [OH-].[Pd+2].[OH-]
product | (1R*,2R*,5S*,6R*)-2-{[3,5-Bis(trifluoromethyl)phenyl]methoxy}-1-phenyl-6-(1H-tetrazol-1-yl)-8-azabicyclo[3.2.1]octane hydrochloride | Cl.FC(C=1C=C(C=C(C1)C(F)(F)F)CO[C@H]1[C@@]2(C[C@H]([C@H](CC1)N2)N2N=NN=C2)C2=CC=CC=C2)(F)F | InChI=1S/C23H21F6N5O.ClH/c24-22(25,26)16-8-14(9-17(10-16)23(27,28)29)12-35-20-7-6-18-19(34-13-30-32-33-34)11-21(20,31-18)15-4-2-1-3-5-15;/h1-5,8-10,13,18-20,31H,6-7,11-12H2;1H/t18-,19+,20+,21+;/m0./s1
